US04724199
Synthesis of 2-Carboxymethylthio-5-Mercapto-1,3,4-Thiadiazole
In 200 ml of water were dissolved 15.0 g of 2,5-dimercapto-1,3,4-thiadiazole and 69 g of potassium hydroxide, and a solution of 13.9 g of bromoacetic acid in 30 ml of water was added thereto dropwise at room temperature. After the addition, the mixture was stirred at 60° C. for 1 hour, followed by allowing to cool to room temperature. The precipitated crystals were filtered and washed with water to obtain 18 g of the desired compound. Melting point: 161°-167° C.

reactant | 2,5-dimercapto-1,3,4-thiadiazole | 15.0 g | SC=1SC(=NN1)S | C2H2N2S3
reactant | potassium hydroxide | 69 g | [OH-].[K+]
reactant | bromoacetic acid | 13.9 g | BrCC(=O)O | C2H3BrO2
solvent | water | 200 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 2-Carboxymethylthio-5-Mercapto-1,3,4-Thiadiazole | 18 g | C(=O)(O)CSC=1SC(=NN1)S | C4H4N2O2S3
